* tb_period_count_known_answer -- known-answer check of the period-count
* extractor this experiment grades every oscillator number with.
* record 20260926-010713-e391693   timestep ceiling 10p
*
* GENERATED FILE. Committed source:
* sim/oscillator-core/testbench/tb_period_count_known_answer.spice.tmpl,
* substituted by sim/oscillator-core/run_method_check.sh.
*
* WHAT IS UNDER TEST HERE
* -----------------------
* Not a device, and not the VCO: the ARITHMETIC. sim/lib.sh's osc_metrics()
* (crossing-counted frequency, peak-to-peak, trapezoidal time average) and
* osc_settle() (envelope settling time) are the estimators every f_osc, Kvco,
* tuning-ratio, supply-current and startup number in this experiment is
* derived through. They are applied here to waveforms whose frequency,
* amplitude, mean and settling time are known in CLOSED FORM, so a run whose
* extraction silently went wrong is caught by a failing number rather than by
* a plausible-looking one. This follows the precedent of the other three
* sim/ studies, each of which ships a known-answer check of its own
* extraction (see sim/tank-characterization's reference R-L-C network and
* sim/inductor-model's 27/27 analytic points).
*
* This deck deliberately uses ONLY ngspice-native behavioural sources: it
* needs no PDK install, no model library and no OSDI build, so the method
* check runs on a bare checkout and a failing extractor can never be confused
* with a PDK or toolchain problem.
*
* THE FIVE TRACES AND THEIR CLOSED FORMS
*   PURE_LO / PURE_MID / PURE_HI -- pure sinusoids at 4.5e9 / 5.0e9 /
*       5.5e9 Hz on a 3.3 V DC offset with amplitude 0.55 V.
*       Closed form: f = the stated frequency exactly, Vpp = 2*0.55,
*       time-average = 3.3. The three frequencies bracket
*       spec/target-spec.md row 1's 4.5 / 5.0 / 5.5 GHz band, so the check
*       covers the band the bench actually reports in, not one convenient
*       point.
*   RAMP -- the same 5.0e9 Hz sinusoid with an exponentially rising
*       envelope of time constant 0.5e-9 s:
*           v(t) = 3.3 + 0.55 * (1 - exp(-t/0.5e-9))
*                               * sin(2*pi*5.0e9*t)
*       Closed form for the settling time to a fraction q of the final
*       envelope: t_settle = -0.5e-9 * ln(1 - q). 0.5e-9 is chosen so that
*       exp(-20n/0.5e-9) is negligible, which makes the final envelope
*       exactly 2*0.55 and removes the closed form's dependence on where
*       the "final" window starts. osc_settle() resolves to the nearest local
*       extremum, i.e. to a half period, which is a KNOWN quantization of the
*       estimator and is why the settling-time tolerance in the record is
*       looser than the frequency one rather than arbitrarily chosen.
*   DC_ONLY -- a constant 3.3 V. Closed form: there is no
*       oscillation, so the correct extractor output is f = 0 and Vpp = 0
*       with the mean still recovered. This is the falsification case: an
*       extractor that manufactures a frequency out of a flat trace would
*       pass every sinusoid above and still be useless, because a
*       non-starting PVT corner is exactly the finding the sweep must not
*       misreport.
*
* Vector names below avoid ngspice's predefined constants (`c`, `e`, `i`,
* `pi`): a `let e = ...` is silently swallowed and leaves an empty output
* file, which looked exactly like a failed measurement while prototyping this.

Bpure_lo  PURE_LO  0 V = 3.3 + 0.55*sin(6.283185307179586*4.5e9*time)
Bpure_mid PURE_MID 0 V = 3.3 + 0.55*sin(6.283185307179586*5.0e9*time)
Bpure_hi  PURE_HI  0 V = 3.3 + 0.55*sin(6.283185307179586*5.5e9*time)
Bramp     RAMP     0 V = 3.3 + 0.55*(1-exp(-time/0.5e-9))*sin(6.283185307179586*5.0e9*time)
Bdconly   DC_ONLY  0 V = 3.3
Rpure_lo  PURE_LO  0 1G
Rpure_mid PURE_MID 0 1G
Rpure_hi  PURE_HI  0 1G
Rramp     RAMP     0 1G
Rdconly   DC_ONLY  0 1G

.control
save all
tran 1p 20n 0 10p
let trace_pure_lo = v(PURE_LO)
wrdata mc_method_10p_pure_lo trace_pure_lo
let trace_pure_mid = v(PURE_MID)
wrdata mc_method_10p_pure_mid trace_pure_mid
let trace_pure_hi = v(PURE_HI)
wrdata mc_method_10p_pure_hi trace_pure_hi
let trace_ramp = v(RAMP)
wrdata mc_method_10p_ramp trace_ramp
let trace_dconly = v(DC_ONLY)
wrdata mc_method_10p_dconly trace_dconly
.endc
.end
